US08729263B2
A mixture of 4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate (360 mg, 0.647 mmol), iodobenzene diacetate (375 mg, 1.164 mmol) and Pd(OAc)2 (7.3 mg, 0.032 mmol) in AcOH (3.0 mL) and Ac2O (3.0 mL) was heated at 60° C. overnight. The reaction mixture was cooled to room temperature and concentrated. The residue was basified with aqueous NaHCO3 solution and extracted with DCM. The combined organic layers were dried over Na2SO4, and concentrated. The crude material was loaded onto a SCX column, washed with MeOH and diluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated. Compound 3-hydroxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate was obtained as a yellow solid (110 mg, 28%) after flash column chromatography and HPLC purification. MS (M+1)=573.2.

reactant | 4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate | 0.647 mmol, 360 mg | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)OC(F)(F)F)(F)F | C22H26F6N4O4S
reactant | iodobenzene diacetate | 1.164 mmol, 375 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | AcOH | 3.0 mL | CC(=O)O | C2H4O2
solvent | Ac2O | 3.0 mL | CC(=O)OC(=O)C | C4H6O3
catalyst | Pd(OAc)2 | 0.032 mmol, 7.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-hydroxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC(F)(F)F)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O)(F)F | C22H26F6N4O5S
